Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Hyperglycemia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male with metastatic melanoma - currently on 
treatment study with CTLA4 antibody, who has been admitted 
multiple times to the hospital (twice at ___ for diarrhea 
felt to be autoimmune colitis related to therapy.  The diarrhea 
has improved on prednisone therapy, but he reports having high 
sugars at home.  

He presented to ___ today (___) for a CT torso and MRI.  
While waiting for the MRI, his lab results returned and revealed 
a BS > 700.  He was then referred to the ED for management.  
while in the ED he received IVF and 10 U of insulin x 2, with 
improvement of his BS to 190.  He reports symptoms of polyuria 
and polydipsia, but otherwise states he feels fine.  He is tired 
after being in the ED today.  ROS reviewed in detail and is 
otherwise negative.

He reports that he has been taking glargine 40 units every 
night, and has been checking his sugars in the morning.  They 
were elevated in the 200-400 range; his prednisone was tapered 
down approximately one week ago from prednisone 40 mg BID to 40 
mg in the am and 20 mg in the evening.  He states he did not 
know that he should continue metformin.  He states this was 
stopped a few days prior to a recent CT scan and misunderstood 
as to whether or not he should restart it.  He states he also 
did not realize that he should be checking his sugars more than 
once a day.  

 
Past Medical History:
Past medical/surgical history (per OMR):  
Metastatic melanoma (see below for oncologic history)  
HTN  
DM2  
.  
Past oncologic history:  
Mr. ___ presented in ___ with a 5-mm 
malignant melanoma of stage IIC (T4, N0, M0, ___ level IV), at 
which time he had an excision and then he received interferon 
for 11 months. Four months later, he went in for follow up at 
the ___ and he developed a new right preauricular mass at the 
excision site and underwent reexcision as well as parotidectomy 
at the ___, followed by involved-field radiation with 5000 cGy in 
___ in ___. In ___, he developed lesions 
on his lips, right leg, left occiput, and left temple. All the 
lesions were excised and pathology revealed incompletely excised 
metastatic melanoma. He additionally underwent a CT scan of the 
torso on ___ which revealed lung, liver, soft 
tissue, bone, and adrenal metastasis. On ___, he 
underwent a CT scan of the brain that showed three lesions, two 
15 mm lesions in the right and left frontal lobes with 
associated edema, but no evidence of shift and a third lesion in 
the right frontoparietal lobe.  

 
Social History:
___
Family History:
 
Family history: (per OMR) His father had melanoma with extensive 
disease on his nose which required essentially entire excision 
of his nose and then he believes he developed metastatic 
disease. He died of an MI at age ___. His mother is ___ and still 
alive. He has no siblings. His children are all healthy.  
 
Physical Exam:
General: Awake, alert, NAD, pleasant 
HEENT: PERRL, left lid ptosis (not new per patient) EOMI, no 
scleral icterus, MMM, no lesions noted in OP, melanoma lesions 
on lower lip and neck  
Neck: supple, no significant JVD  
Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales  
Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated  
Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or 
organomegaly noted  
Extremities: 1+ edema bilaterally, 
 
Pertinent Results:
MRI Brain:
MPRESSION: 
1. Multiple hemorrhagic cerebral metastases are unchanged in 
number, however, the dominant right frontal lesion and the left 
frontal lesion have increased in size and demonstrate interval 
increase in the degree of enhancement and their surrounding 
vasogenic edema. 
2. Unchanged multiple punctate enhancing lesions of both 
cerebral 
hemispheres. 

CT Chest, Abd, Pelvis:
1. Progression of mixed density osseous lesions now involving 
almost all 
vertebral bodies, pelvic bones, and humeral heads, consistent 
with metastatic disease . Correlation with bone scan may be 
helpful. 
2 Otherwise stable appearance of innumerable tiny pulmonary 
nodules, right 
hilar lymph node, innumerable hepatic metastases, and tiny 
omental implants. 
3. Stable likely benign periesophageal cystic structures. 

Blood, Urine cultures: NGTD

 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman with type 2 diabetes and 
metastatic melanoma on CTLA 4 protocol complicatedy by 
autoimmune colitis on prednisone admitted for hyperglycemia.

1. Fever: Patient febrile to 101 on the day of admission, but 
without an identified source of infection.  Urine does not 
demontrate pyuria, no gross lung infiltrate, and he is not 
neutropenic.    CT abdomen was negative signs of bowel wall 
thickening or fat stranding.  CT chest was normal. Blood 
cultures and urine cultures were negative. It was thought that 
it may be secondary to autoimmune colitis. Patient was started 
on prednisone for colitis and remained afebrile for the length 
of stay.

2. Hyperglycemia: Patient came in with blood sugar >700.  He 
received hydration overnight and BG ranged from 200 to 400s. 
HbA1c was 10.6, confirming that he has poorly controlled DM 2.  
As well, he was started on prednisone for his colitis further 
worsening his glucose control.  ___ was consulted he 
was started on lantus 40units qHS and sliding scale humalog.  
His BG persisted into the 400s so his lantus was increased to 50 
qHS and sliding scale was increased.  We held his metformin in 
preparation for his metformin, and then did not restart it as 
___ felt it could be contributing to his diarrhea.  The 
patient was given a diabetic diet, diabetes education, he was 
instructed on the correct usage of insulin, and was referred to 
___ Diabetes/Endocrinology for follow up. 
.
3. Diarrhea/autoimmune colitis: Currently without diarrhea.  
Patient was continued on prednisone 40 QAM and 20 QPM per 
primary onc team.

4. Metastatic melanoma: Per primary oncology team (Dr. 
___, patient is continuing on his CTLA-4 protocol. 
 MRI revealed possibly worsening of his brain metastases, but 
this will be followed up at his outpatient oncology appointment 
next ___.

5. Hypertension: Patient continued on home lisinopril.
 
Medications on Admission:
Home medications on admission:
doxazosin 2 mg HS
gemfibrozil 600mg bid
lantus 40 U HS
lisinopril 20 mg daily
prednisone 40mg AM/20 mg HS
simvastatin 10 mg daily
omeprazole 20 mg daily

On med list- patient reports not taking:
ambrotse
glyconutrient/colostrum
metformin 500mg bid
aspirin 81 mg daily (stopped approximately 3 weeks ago)
 
Discharge Medications:
1. Doxazosin 1 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
2. Gemfibrozil 600 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
3. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Prednisone 20 mg Tablet Sig: Two (2) Tablet PO QAM (once a 
day (in the morning)) as needed for CTLA-4 induced colitis.  
5. Prednisone 20 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for colitis.  
6. Simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
8. Insulin Glargine 300 unit/3 mL Insulin Pen Sig: Fifty (50) 
units Subcutaneous at bedtime.
Disp:*1500 units* Refills:*2*
9. Insulin Lispro 100 unit/mL Insulin Pen Sig: One (1) unit 
Subcutaneous three times a day: Please follow insulin sliding 
scale as directed.
Disp:*1 month supply* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary
1. Hyperglycemia
2. Diabetes Type 2
3. Squamous cell lung cancer

 
Discharge Condition:
stable

 
Discharge Instructions:
1. You were admitted for hyperglycemia, or high blood glucose 
levels.  We gave you insulin. The ___ endocrinologists 
saw you during your admission and started you on a long acting 
insulin you will take at night and short acting insulin that you 
will take with your meals.

2. We have stopped your metformin and started insulin. Unless 
otherwise indicated, you should resume all of your home 
medications as taken prior to admission. It is very important 
that you take all of your medications as prescribed.

3. It is very important that you keep all of your doctor's 
appointments.

4. If you develop chest pain, shortness of breath, or other 
concerning symptoms, please call your PCP or go to your local 
Emergency Department immediately.
 
Followup Instructions:
___